US04716168
A. Ethyl 3-(5-Benzimidazolylamino)cinnamate
A solution of 900 ml. of ethanol and 82 g. (0.5 mole) of 5-nitrobenzimidazole with 4 g. of 5% PdC, 50% H2O catalyst is reduced on the Parr Apparatus. A pressure drop of 104 psi. is observed (calcd. 100). After the reduction stopped, the bottle is removed from the apparatus, and the catalyst filtered. Then 96 g. (0.5 mole) of ethylbenzoylacetate, 20 g. of anhydrous calcium sulfate and 0.5 ml. of HOAc are added to the filtrate. The solution is refluxed for 2 hours and filtered. The filtrate is concentrated to a dark sticky resin. Crystallization is induced by scratching. The product after cooling is filtered, washed with ethanol and air-dried. The product weighs 55 g. m.p. 188°-190° C.

reactant | ethanol | C(C)O | C2H6O
reactant | 5-nitrobenzimidazole | 0.5 mole | [N+](=O)([O-])C1=CC2=C(N=CN2)C=C1 | C7H5N3O2
reactant | ethylbenzoylacetate | 0.5 mole | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
catalyst | H2O | O | H2O
solvent | HOAc | CC(=O)O | C2H4O2
product | Ethyl 3-(5-Benzimidazolylamino)cinnamate | N1=CNC2=C1C=CC(=C2)NC=2C=C(C=CC(=O)OCC)C=CC2 | C18H17N3O2
